US05204332
Preparation of 1-Methyl-2,4,5-tribromopyrrole-3-carbonitrile
To a stirred mixture of 0.87 g (7.75 mmol) of potassium t-butoxide in 30 mL of dry THF under a nitrogen atmosphere is added dropwise from an addition funnel 2.10 g (6.39 mmol) of 2,4,5-tribromopyrrole-3-carbonitrile in 20 mL of dry THF. After 15 minutes, 0.64 mL (10.3 mmol) of methyl iodide is added by syringe over 2 minutes. After several hours at room temperature, the mixture is diluted with 100 mL of water and 75 mL of ethyl acetate. The separated water phase is extracted again with ethyl acetate and the combined organic layers are washed with dilute sodium hydroxide, water, and saturated salt solution. After drying over magnesium sulfate, the mixture is shaken with activated charcoal and filtered. Concentration in vacuo gives a white solid which is slurried with hexane and recrystallized from ethyl acetate to afford the title compound as a white solid, mp 151°-152° C.

reactant | potassium t-butoxide | 7.75 mmol, 0.87 g | CC(C)([O-])C.[K+]
reactant | 2,4,5-tribromopyrrole-3-carbonitrile | 6.39 mmol, 2.10 g | BrC=1NC(=C(C1C#N)Br)Br | C5HBr3N2
reactant | methyl iodide | 10.3 mmol, 0.64 mL | CI | CH3I
reactant | hexane | CCCCCC | C6H14
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-2,4,5-tribromopyrrole-3-carbonitrile | CN1C(=C(C(=C1Br)Br)C#N)Br | C6H3Br3N2
